US05753138
N-(4-chlorobenzoyl)valerolactam:
Synthesized as for N-(4-chlorobenzoyl)caprolactam (Example XXIX using valerolactam (Aldrich) in place of caprolactam.

reactant | N-(4-chlorobenzoyl)caprolactam | ClC1=CC=C(C(=O)N2C(CCCCC2)=O)C=C1 | C13H14ClNO2
reactant | valerolactam | C1(CCCCN1)=O | C5H9NO
product | N-(4-chlorobenzoyl)valerolactam | ClC1=CC=C(C(=O)N2C(CCCC2)=O)C=C1 | C12H12ClNO2
